US05424329
5-Hydroxy-1-methyl-3-(1-methylethoxy)-1H-indole-2-carboxamide
A suspension of 1-methyl-(1-methylethoxy)-5-(phenylmethoxy)-1H-indole-2-carboxamide (2.1 g, 6.2 mmol) in 100 mL of methanol is hydrogenated using 0.5 g of 20% palladium on carbon catalyst. The catalyst is filtered and the filtrate evaporated. Recrystallization of the residue from aqueous acetonitrile gives. 0.87 g (58%) of product; mp 234°-237° C.

reactant | 1-methyl-(1-methylethoxy)-5-(phenylmethoxy)-1H-indole-2-carboxamide | 6.2 mmol, 2.1 g | CN1C(=C(C2=CC(=CC=C12)OCC1=CC=CC=C1)OC(C)C)C(=O)N | C20H22N2O3
solvent | methanol | 100 mL | CO | CH4O
catalyst | palladium on carbon | 0.5 g | [Pd] | Pd
product | 5-Hydroxy-1-methyl-3-(1-methylethoxy)-1H-indole-2-carboxamide | OC=1C=C2C(=C(N(C2=CC1)C)C(=O)N)OC(C)C | C13H16N2O3
